US07528134B2
1-(3-methyl-2-pyridinyl)piperazine
To a slurry of 2-bromo-3-methylpyridine (3.30 mL, 29.6 mmol) in n-butanol was added piperazine (25.0 g, 290 mmol) and the reaction heated to reflux for 3 days. The mixture was cooled and the solvent removed under reduced pressure. The residue was partitioned between water and ethyl acetate. The organic phase was dried (sodium sulfate) and concentrated. The residue was purified by flash column chromatography on silica gel (elution with 15% methanol:dichloromethane) to provide the title compound as a yellow oil.

reactant | 2-bromo-3-methylpyridine | 29.6 mmol, 3.30 mL | BrC1=NC=CC=C1C | C6H6BrN
reactant | piperazine | 290 mmol, 25.0 g | N1CCNCC1 | C4H10N2
solvent | n-butanol | C(CCC)O | C4H10O
product | 1-(3-methyl-2-pyridinyl)piperazine | CC=1C(=NC=CC1)N1CCNCC1 | C10H15N3
